US07199244B2
Step g—Preparation of 2-piperidin-2-yl-N-[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-acetamide
To a solution of 2-{[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-ylcarbamoyl]-methyl}-piperidine-1-carboxylic acid tert-butyl ester in CH2Cl2 (2 mL) was added TFA (2 mL). The mixture was stirred at RT, concentrated in vacuo. The crude was neutralized with 10% Na2CO3 until the aqueous phase is basic, extracted with CH2Cl2three times. The organic solution was dried over Na2SO4 filtered and concentrated in vacuo to provide the title compound. MS (ESI): 396 (M+H)+.

reactant | 2-{[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-ylcarbamoyl]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(NC1CCCC2=CC(=CC=C12)C(=C)CN1CCCCC1)=O | C30H45N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-piperidin-2-yl-N-[6-(1-piperidin-1-ylmethyl-vinyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-acetamide | N1C(CCCC1)CC(=O)NC1CCCC2=CC(=CC=C12)C(=C)CN1CCCCC1 | C25H37N3O
